.title kicad schematic

.include lm_741.sub
* u4 out plot_db
c2 net-_c2-pad1_ gnd 7p
x2 unconnected-_x2-pad1_ net-_c2-pad1_ net-_r4-pad2_ net-_v1-pad2_ unconnected-_x2-pad5_ out net-_v1-pad1_ unconnected-_x2-pad8_ lm_741
* u5 out plot_v1
v2 in gnd sine(0 1.5 43 0 0)
r1 gnd net-_r1-pad2_ 10k
* u1 in plot_v1
c1 in net-_c1-pad2_ 8pf
r2 gnd net-_c1-pad2_ 310.30
v1 net-_v1-pad1_ net-_v1-pad2_ 5
r3 net-_r1-pad2_ net-_r3-pad2_ 10k
x1 unconnected-_x1-pad1_ net-_c1-pad2_ net-_r1-pad2_ net-_v1-pad2_ unconnected-_x1-pad5_ net-_r3-pad2_ net-_v1-pad1_ unconnected-_x1-pad8_ lm_741
r5 net-_c2-pad1_ net-_r3-pad2_ 1.59
r4 gnd net-_r4-pad2_ 10k
r6 net-_r4-pad2_ out 10k
.tran 10e-03 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(out)
plot v(out)
plot v(in)
.endc
.end
